US05883294
To 1-(2,6-dimethyl-4-methoxyphenyl)-1-(3-isopropyl-4-methoxyphenyl) ethane (250 mg, 0.8 mmol) in 15 mL of methylene chloride at -78° C. was added 8 mL of boron tribromide (1.0M in methylene chloride). The reaction mixture was stirred for 30 minutes at -78° C. and for 20 hours at room temperature. The reaction mixture was washed with water (2×25 mL), dried (MgSO4), and evaporated to give crude product (300 mg). Purification using flash column chromatography (silica gel, 90:10 hexane/ethylacetate) gave 1-(4-hydroxy-2,6-dimethylphenyl)-1-(4-hydroxy-3-isopropylphenyl) ethane (160 mg, 0.562 mmol, 70%); 1HNMR (CDCl3) δ 1.20 (dd, 6H), 1.60 (d, 3H), 2.25 (s, 6H), 2.35 (s, 3H), 3.20 (heptet, 1H), 4.45 (q, 1H), 6.45 (s, 1H), 6.65 (m, 2H), 7.00 (d, 1H), 7.20 (d, 1H).

reactant | 1-(2,6-dimethyl-4-methoxyphenyl)-1-(3-isopropyl-4-methoxyphenyl) ethane | 0.8 mmol, 250 mg | CC1=C(C(=CC(=C1)OC)C)C(C)C1=CC(=C(C=C1)OC)C(C)C | C21H28O2
reactant | boron tribromide | 1.0M, 8 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-hydroxy-2,6-dimethylphenyl)-1-(4-hydroxy-3-isopropylphenyl) ethane | 0.562 mmol, 160 mg, 70% | OC1=CC(=C(C(=C1)C)C(C)C1=CC(=C(C=C1)O)C(C)C)C | C19H24O2
